US06075018
1-(4-Aminostyryl)-4-methyl-7,8-dimethoxy-3,4-dihydro-5H-2,3-benzodiazepine
6.95 g (18.9 mmoles) of 1-(4-nitrostyryl)-4-methyl-7,8-dimethoxy-3,4-dihydro-5H-2,3-benzodiazepine prepared according to Example 25 are suspended in 170 ml of methanol, 0.7 g of dry (corresponding to about 1.4 g of wet) Raney nickel catalyst and 3.3 ml (66 mmoles) of 100% hydrazine hydrate are added to it and the reaction mixture is stirred for 1 hour. A solution is obtained, and in the beginning the inner temperature rises to 40-45° C. The catalyst is filtered off, washed three times with 15 ml each of methanol, the filtrate is evaporated in vacuo, the crude product is conveyed to a filter with 80 ml of water, washed three times with 15 ml each of water and dried. Thus 5.46 g of product are obtained. In order to purify the crude product it is recrystallized from 25 ml of 50% ethanol. Thus 4.21 g (66.0%) of the desired product are obtained. M.p.: 152-154° C.

reactant | 1-(4-nitrostyryl)-4-methyl-7,8-dimethoxy-3,4-dihydro-5H-2,3-benzodiazepine | 18.9 mmoles, 6.95 g | [N+](=O)([O-])C1=CC=C(C=CC2=NNC(CC3=C2C=C(C(=C3)OC)OC)C)C=C1 | C20H21N3O4
reactant | hydrazine hydrate | 66 mmoles, 3.3 ml | O.NN
solvent | methanol | 170 ml | CO | CH4O
catalyst | Raney nickel | about 1.4 g | [Ni] | Ni
product | 1-(4-Aminostyryl)-4-methyl-7,8-dimethoxy-3,4-dihydro-5H-2,3-benzodiazepine | 5.46 g | NC1=CC=C(C=CC2=NNC(CC3=C2C=C(C(=C3)OC)OC)C)C=C1 | C20H23N3O2
